US05216172
To a solution of 13 mg (0.026 mmol) of 1,4-dihydro-4-(3,4-dimethoxyphenyl)-2,6-dimethyl-1-(3-phenylpropyl) -3-cyano-5-hydroxymethylpyridine in 0.45 ml of dichloroethane was added 5 mg of activated manganese dioxide. The mixture was heated at 80° C. for one hour. Then the mixture was filtered and concentrated. The resulting residue was purified by thin layer chromatography (AcOEt:Hexane 1:1) to give 7.4 mg (0.015 mmol) of 1,4-dihydro-4-(3,4-dimethoxyphenyl)-2,6-dimethyl -1-(3-phenylpropyl)-3-cyano-5-formylpyridine (yield: 58%).

reactant | 1,4-dihydro-4-(3,4-dimethoxyphenyl)-2,6-dimethyl-1-(3-phenylpropyl) -3-cyano-5-hydroxymethylpyridine | 0.026 mmol, 13 mg | COC=1C=C(C=CC1OC)C1C(=C(N(C(=C1CO)C)CCCC1=CC=CC=C1)C)C#N | C26H30N2O3
solvent | dichloroethane | 0.45 ml | ClC(C)Cl | C2H4Cl2
catalyst | manganese dioxide | 5 mg | [O-2].[O-2].[Mn+4]
product | 1,4-dihydro-4-(3,4-dimethoxyphenyl)-2,6-dimethyl -1-(3-phenylpropyl)-3-cyano-5-formylpyridine | 0.015 mmol, 7.4 mg, yield: 58% | COC=1C=C(C=CC1OC)C1C(=C(N(C(=C1C=O)C)CCCC1=CC=CC=C1)C)C#N | C26H28N2O3
